US06887885B2
1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one was coupled to 3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine, in the same way as in Example 1, to give 1-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one as an off-white solid (62 mg, 59%): δH (400 MHz, d6-DMSO) 3.69 (3H, s), 6.36 (1H, s), 7.23 (1H, d, J 7), 7.40-7.56 (3H, m), 7.68-7.69 (1H, m), 7.94 (1H, s), 8.57 (1H, d, J 3), 8.66 (1H, d, J 1); m/z (ES+) 339 [MH+].

reactant | 1-(3-Bromo-4-fluorophenyl)-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | BrC=1C=C(C=CC1F)N1C=NC=2C(N(C=CC21)C)=O | C13H9BrFN3O
reactant | 3-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | FC=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C11H15BFNO2
product | 1-[4-fluoro-3-(5-fluoropyridin-3-yl)phenyl]-5-methyl-1,5-dihydroimidazo[4,5-c]pyridin-4-one | 62 mg, 59% | FC1=C(C=C(C=C1)N1C=NC=2C(N(C=CC21)C)=O)C=2C=NC=C(C2)F | C18H12F2N4O
